reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C+:2]([N:3]([C:4](=[C:5]=[N-:6])[H:13])[H:12])[H:10])([H:7])([H:8])[H:9].[H:11][H:14],64.9870006408175
[O:1]=[C:2]([N+:4]#[C-:3])[H:5]>>[O:1]=[C:2]([C:3]#[N:4])[H:5],32.0145387011284
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:5](=[C-:6][H:14])[C+:4]1[H:13])([H:7])([H:8])[H:9],70.8099477368818
[C-:1]([N:2]([C+:3]([H:12])[H:13])[H:11])([H:8])[H:10].[C:4](=[O:5])([O:6][C:7]([H:14])([H:15])[H:16])[H:9]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],18.39627882692391
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:3]([C:2](=[O:4])[H:10])([H:11])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:14],117.951658243493
[C:1]([N:2]([c:3]1[n:4]([H:12])[o:6][c:5]1[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],21.789072995069503
[C:1]([C:4]([C:2](=[O:3])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],86.32080723427053
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:9])[H:10].[C:3](=[O:4])([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:8],79.38875725100941
[O:1]([c:2]1[n:3][n:4][n:5][n:6]1[H:8])[H:7]>>[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8],45.26949600602409
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C+:2]=[C:4]=[N-:5])([H:6])([H:7])[H:8].[C:3]([H:9])([H:10])([H:11])[H:12],90.13095675090099
[N:1]#[C:2][H:8].[N:3]#[N+:4][C:7](=[C:6]([O-:5])[H:9])[H:10]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],44.972990844089296
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N+:3]([C-:4]([H:13])[H:14])([C:5](=[O:6])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],91.7796452121768
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]=[N:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],69.2608715308147
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[O:3][C@@:4]1([C:5]([H:12])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9].[O:6]([H:11])[H:16],81.25336984685809
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3]([C:4](=[C:5](\[C:6](=[O:7])[H:17])[H:15])\[H:14])/[H:12])[H:11])([H:8])([H:9])[H:10].[H:13][H:16],105.168922697558
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[N:3]([H:13])[C:4](=[N:5]/[H:14])/[C:6]1=[N:7]/[H:8]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],93.59530635199339
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:7][C:6](=[C:5]([H:15])[H:16])[H:17])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],91.700928375634
[C:1]([C:2]([H:9])([H:11])[H:12])([N:7]=[C:6]=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18])([H:8])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],72.7433610065787
[C:1]([C:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:10])[H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],7.653681376768816
[C:1]([O:2][C:3](/[C:4](=[C:6](/[O:7][C:5]([H:14])([H:15])[H:16])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],76.965174856853
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2](=[O:4])[N:3]1[H:10].[C:5](=[O:6])([H:9])[H:11],92.51437742820299
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[N:3](\[C:4]([H:13])([H:14])[H:15])=[C:5](/[O:6][H:10])[C:7]([H:16])([H:17])[H:18],59.5008374577311
[C:1]([C:2]1=[C:6]([H:12])[C:5](=[O:3])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],125.22211642550931
[C-:6]#[O+:7].[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([H:8])[H:10]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],35.499575328334004
